Name:  ___      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ PMH of FAP (s/p colectomy ___, Recently Diagnosed
Intrabdominal Desmoid Tumor (initially resected in ___ in ___
when smaller, now recurrent and much larger), who was referred 
by
soon to be oncologist Dr ___ in advance of her 
initial
appointment for rapid workup and improved control of abdominal
pain.

As per review of records from ___, ___ has 
been
seen from ___ to ___ in the emergency department where
she has been noted to have increased in size of abdominal tumor,
for which a ultrasound-guided core needle biopsy was performed
whose pathology revealed desmoid fibramatosis.  She was seen by
colorectal surgery at ___ who declined to offer
therapy as they felt her abdominal tumors were too large and too
complicated to be operated on at a community ___.  She has
not yet established care with an outpatient oncologist but was
due to see Dr ___, who referred her to the emergency
department for pain control and further workup. 

Pt reports that she has had left lower quadrant mass for many
years and was initially resected in ___ when it was much
smaller.  After resection it recurred and has grown since.  She
noted that she has persistent abdominal pain that is typically
left-sided and also occasionally in the right lower quadrant,
which is sharp/stabbing, and aggravated by long periods in the
same position (sitting/standing).  She noted that with taking
Percocet temporarily gets better but never is fully resolved. 
She notes that it interferes with her daily life and she is
unable to tolerate a normal diet as result.  She notes that she
frequently has diarrhea, that is nonbloody.  She noted that she
has fevers and chills at night. Noted that she presented on this
admission to initiate care with oncologist for surgical
evaluation as she would like the mass removed.

She otherwise noted that she was without sore throat, cough,
headache, shortness of breath, dysuria, rash

In the ED, initial vitals: 97.8 100 132/99 18 98% RA. WBC 9.5,
Hgb 14.3, plt 251, LFTs/CEHM/Lactate wnl. UA with 10WBC +
ketones, ___ prot, mod bld, mod ___, then was repeated and had 3
WBC, +keton, Tr prot, sm bld, tr ___.
 
CTH revealed:
No acute intracranial process. Please note that MRI is more
sensitive in detecting small intracranial lesions.

CXR revealed:
No definite focal consolidation to suggest pneumonia. 2 mm left
apical punctate opacity may represent vessel on end, calcified
granuloma, or a tiny pulmonary nodule. Please note that CT is
more sensitive in assessing for small pulmonary nodules.

___ was given dilaudid, Tylenol, IVF and admitted to 
oncology
for further care. 
 
REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI.  

******************OSH IMAGING & PATHOLOGY*****************
CT A/P ___ from ___:
Compared to prior CT of the abdomen and pelvis dated ___
1.  There is a large persistent soft tissue mass involving the
left rectus musculature.
2.  Additional spiculated peritoneal masses are noted. 
Possibilities again include desmoid tumor or GI stromal tumor
3.  There is a persistent lobulated left adnexal cyst measuring
up to 2 cm there is a stable 1.5 subcentimeter area of subtle
enhancement within the inferior right hepatic lobe.  If
clinically indicated, this may be evaluated with MRI.
4.  Mild intrahepatic and extrahepatic biliary duct dilatation,
possibly due to chronic postcholecystectomy change, although
intrahepatic ductal prominence appears slightly more evident 
than
on prior study

CT A/P ___ from ___:
Since previous CT scan of abdomen and pelvis performed on
___
1.  Persistent large left suprapubic abdominal wall mass lesion
with interval increase in size, could be due to postbiopsy
hemorrhage.
2.  Persistent right lateral abdominal possibly mesenteric 
tumor,
with no significant interval change in size.
3.  Persistent possible slight interval increase in size of a
hyperenhancing subscapular right hepatic lobe segment 6 mass
lesion
4.  Unchanged status post cholecystectomy

MRI Abdomen ___:
8.2 x 8.0 x 10.1 cm markedly heterogeneous enhancing mass in the
left lower abdominal wall.  Differential diagnostic
considerations include desmoid tumor, soft tissue sarcoma,
endometriosis, and others.  3 nonspecific enhancing lesions in
the liver possibly focal nodular hyperplasia or less likely 
flash
filling hemangiomas.  Other etiologies cannot be excluded. 
Follow-up MRI abdomen in 3 months without and with contrast is
suggested to document stability

Pathology ___
Left lower quadrant abdominal mass, ultrasound-guided core 
needle
biopsy: Desmoid fibramatosis.  Specimen shows a cytologically
uniform fibroblastic/myofibroblastic proliferation with an
orderly fascicular architecture and a collagenous stroma.  There
is no atypia or pleomorphism.  The lesional cells are
multifocally positive for SMA and show multifocal nuclear
positivity for beta-catenin.  The appearances indeed fit very
well for a desmoid fibromatosis.  There is no evidence of
malignancy
 
Past Medical History:
PAST MEDICAL HISTORY: 
s/p CCY
FAP s/p colon resection ___
Recently Diagnosed Intrabdominal Desmoid Tumor (initially
resected in ___ in ___ when smaller, now recurrent and much
larger)
 
Social History:
___
Family History:
Both of ___ brothers died of colon cancer 1 at ___ and the 
other at ___ years old
 
Physical Exam:
ADMISSION EXAM:
===============
Vitals:  98.0 117/82 71 16 100 ra
GENERAL: Laying in bed, no acute distress, pleasant, smiling
EYES: Anicteric, pupils equally round reactive to light
HEENT: Oropharynx clear, moist mucous membranes, braces on upper
teeth
NECK: Supple
LUNGS: Clear to auscultation bilaterally without any wheezes
rales or rhonchi, normal respiratory rate, speaks in full
sentences
CV: Regular rate and rhythm, normal distal perfusion without any
edema
ABD: Soft, as grapefruit size soft tissue lesion in left lower
quadrant which is solid and firm to the touch which is very
tender with palpation, she has smaller abdominal mass noted in
the right upper quadrant which is also tender but less so, no
rebound or guarding, no peritoneal signs, hypoactive bowel
sounds, large old surgical scar in midline
GENITOURINARY: No Foley
EXT: No deformity, normal muscle bulk
SKIN: Warm dry, no rash, abdominal scar noted as above
NEURO: Alert and oriented ×3, fluent speech
ACCESS: Peripheral IV

DISCHARGE EXAM:
===============
VS: ___ 0736 Temp: 98.1 PO BP: 115/71 HR: 88 RR: 18 O2 sat: 
99% O2 delivery: RA 
Gen: NAD, sitting up in chair 
HEENT: EOMI, PERRL, anicteric sclera, MMM; no resting nystagmus, 
braces on upper and lower teeth
Cards: RR, no peripheral edema, 2+ DP and radial pulses b/l
Chest: CTAB, normal WOB
Abd: inspection reveals large (baseball sized) mass in the LLQ, 
remainder of abdominal inspection reveals only a small 
hyperpigmented area at the level of the umbilicus on the right 
side of the abdomen; the LLQ mass is severely tender to 
palpation; the remainder of the abdomen is soft, not distended, 
and without significant tenderness to palpation
MSK: thin, stable gait, grossly normal strength
Neuro: AAOx4, clear speech, conversant, no tremor
Psych: calm, cooperative

 
Pertinent Results:
ADMISSION LABS
===============

___ 04:24PM BLOOD WBC-9.5 RBC-5.41* Hgb-14.3 Hct-45.2* 
MCV-84 MCH-26.4 MCHC-31.6* RDW-13.1 RDWSD-39.7 Plt ___
___ 04:24PM BLOOD Neuts-68.0 ___ Monos-4.7* 
Eos-0.4* Baso-0.2 Im ___ AbsNeut-6.46* AbsLymp-2.50 
AbsMono-0.45 AbsEos-0.04 AbsBaso-0.02
___ 04:24PM BLOOD ___ PTT-27.0 ___
___ 04:24PM BLOOD Glucose-82 UreaN-6 Creat-0.6 Na-142 K-4.0 
Cl-103 HCO3-26 AnGap-13
___ 04:24PM BLOOD ALT-7 AST-17 LD(LDH)-176 AlkPhos-63 
TotBili-0.9
___ 04:24PM BLOOD Lipase-29
___ 04:24PM BLOOD Albumin-4.8 Calcium-9.7 Phos-3.6 Mg-2.0 
UricAcd-2.8
___ 04:30PM BLOOD Lactate-1.5
.
.
DISCHARGE LABS
===============

___ 05:51AM BLOOD WBC-6.8 RBC-5.09 Hgb-13.4 Hct-42.3 MCV-83 
MCH-26.3 MCHC-31.7* RDW-12.8 RDWSD-38.6 Plt ___
___ 05:51AM BLOOD Glucose-91 UreaN-5* Creat-0.5 Na-140 
K-4.2 Cl-103 HCO3-22 AnGap-15
___ 05:51AM BLOOD Calcium-9.5 Phos-4.4 Mg-1.8
.
.
MICRO
======
-___ Stool C. diff: negative
-___ UCx: mixed bacterial flora (final)
-___ UCx: mixed bacterial flora (final)
-___ BCx: pending
-___ BCx: pending

___ 7:19 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Preliminary): 

   OVA + PARASITES (Final ___: 
      CANCELLED.    QUANTITY NOT SUFFICIENT FOR TESTING. 
         REPEAT SPECIMEN REQUESTED. 

   FECAL CULTURE - R/O VIBRIO (Preliminary): 

   FECAL CULTURE - R/O YERSINIA (Preliminary): 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      CANCELLED.    QUANTITY NOT SUFFICIENT FOR TESTING. 
         REPEAT SPECIMEN REQUESTED. 

___ 1:21 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

___ 9:46 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

.
.
.
.
IMAGING
========
___ CT head w/o contrast:

CT HEAD W/O CONTRAST 
  
INDICATION:  History: ___ with headache, abdominal malignancy// 
eval for 
intracranial mass, hemorrhage      eval for intracranial mass, 
hemorrhage 
  
TECHNIQUE:  Noncontrast enhanced MDCT images of the head were 
obtained.  
Reformatted coronal and sagittal images were also obtained. 
  
DOSE  Acquisition sequence: 
   1) Sequenced Acquisition 16.0 s, 16.0 cm; CTDIvol = 50.2 mGy 
(Head) DLP = 
802.7 mGy-cm. 
 Total DLP (Head) = 803 mGy-cm. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
There is no evidence of acute intracranial hemorrhage, midline 
shift, mass 
effect, or acute large vascular territory infarct.  Gray-white 
matter 
differentiation is preserved.  There is no hydrocephalus.  The 
partially 
imaged paranasal sinuses demonstrate opacification of a right 
ethmoid air cell 
and minimal mucosal thickening of the right frontal sinus.  The 
mastoid air 
cells are clear.  No acute fracture seen. 
  
IMPRESSION:  
  
No acute intracranial process.  Please note that MRI is more 
sensitive in 
detecting small intracranial lesions. 

.
.
___ CXR (PA & lat)

Final Report 
EXAMINATION: 
Chest:  Frontal and lateral views 
  
INDICATION:  History: ___ with abdominal pain and mass// ?mass, 
pna 
  
TECHNIQUE:  Chest:  Frontal and Lateral 
  
COMPARISON:  None. 
  
FINDINGS:  
  
No focal consolidation is seen.  There is no pleural effusion or 
pneumothorax. 
The cardiac and mediastinal silhouettes are unremarkable.  2 mm 
left apical 
punctate opacity may represent vessel on end, calcified 
granuloma, or a tiny 
pulmonary nodule. 
  
IMPRESSION:  
  
No definite focal consolidation to suggest pneumonia. 
  
 2 mm left apical punctate opacity may represent vessel on end, 
calcified 
granuloma, or a tiny pulmonary nodule.  Please note that CT is 
more sensitive 
in assessing for small pulmonary nodules. 

 
Brief Hospital Course:
# LLQ pain: due to large, growing, pathology-confirmed desmoid 
tumor
# Intra-abdominal desmoid tumor
- Dr. ___, of ___ Oncology, evaluated the ___ 
and advised starting sulindac w/ PPI for GI ppx and outpatient 
surgery f/u w/ Dr. ___
- ___ is scheduled for f/u appointment with both Dr. 
___ on ___.
- Appointment w/ Dr. ___ is in the process of being scheduled.
- She was afebrile, with normal VS, ambulatory, and tolerating a 
regular diet at the time of discharge.

# 2 mm lung opacity
- non-urgent re-imaging can be performed as outpatient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
3. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Moderate 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3 
2.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*3 
3.  Sulindac 150 mg PO BID 
RX *sulindac 150 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*3 
4.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  
5.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
LLQ abdominal pain
Desmoid tumor of the abdomen
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms ___,

You were admitted to the hospital with a painful mass in the 
left lower quadrant of your abdomen.  You were evaluated by the 
Oncology doctor (___) who recommended starting 2 
new medications and following up in ___ clinic with him and 
in Surgery clinic with Dr. ___.

We wish you the best.

Sincerely,
The ___ Medicine Team
 
Followup Instructions:
___